US07713973B2
N-(3-(2-(hydroxymethyl)-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-7-yl)phenyl)methanesulfonamide
The title compound was synthesized using (7-chloro-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-2-yl)methanol and 3-(methylsulfonamido)phenyl boronic acid using the procedure described in Example 278. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.32 (s, 3H) 3.06 (s, 3H) 4.70 (s, 2H) 6.75 (s, 1H) 7.31 (dd, J=7.96, 1.64 Hz, 1H) 7.50-7.61 (m, 2H) 7.89 (d, J=8.08 Hz, 1H) 8.15 (s, 1H) 8.57 (s, 1H) 10.02 (s, 1H) 10.97 (s, 1H) 12.37 (s, 1H); ESI-MS: m/z calc'd for C18H19N7O3S 413.45; found 414.3 (M+H)+.

reactant | (7-chloro-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-2-yl)methanol | ClC1=CC=2N(C(=N1)NC1=NNC(=C1)C)C=C(N2)CO | C11H11ClN6O
reactant | 3-(methylsulfonamido)phenyl boronic acid | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
product | N-(3-(2-(hydroxymethyl)-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-7-yl)phenyl)methanesulfonamide | OCC=1N=C2N(C(=NC(=C2)C=2C=C(C=CC2)NS(=O)(=O)C)NC2=NNC(=C2)C)C1 | C18H19N7O3S
